US06992083B2
N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-2-methyl-isonicotinamide
From 2-methylisonicotinic acid, HATU and N-diethylisopropylamine in THF, then treatment with 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl-amine in dioxane and DMF. ES-MS m/e (%): 368 (M+H+, 100).

reactant | 2-methylisonicotinic acid | CC=1C=C(C(=O)O)C=CN1 | C7H7NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl-amine | COC1=CC=C(C2=C1N=C(O2)N)C2CCOCC2 | C13H16N2O3
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[4-Methoxy-7-(tetrahydro-pyran-4-yl)-benzooxazol-2-yl]-2-methyl-isonicotinamide | COC1=CC=C(C2=C1N=C(O2)NC(C2=CC(=NC=C2)C)=O)C2CCOCC2 | C20H21N3O4
